US06030970
d) Ethyl 5-(2-methoxymethoxy-4-methoxyphenyl)-1-n-butyl-1H-imidazole-4-carboxylate
A mixture of ethyl 5-bromo-1-n-butyl-1H-imidazole-4-carboxylate (0.10 g, 0.37 mmol), 2-methoxymethoxy-4-methoxyphenylboronic acid (0.16 g, 0.73 mmol), sodium carbonate (0.08 g, 0.73 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.04 g) in 12 mL of toluene/ethanol/water (10/1/1) was stirred at reflux for 24 h. After an aqueous work up, extracting with ethyl acetate (3×20 mL), the combined organic extracts were washed with brine and dried (Na2SO4). After removing the solvent under reduced pressure, flash column chromatography (1:1 ethyl acetate/hexane) of the residue afforded the title compound as an oil (0.06 g, 46%). 1H NMR (250 MHz, CDCl3)δ 7.53 (s, 1H), 7.09 (d, 1H), 6.75 (d, 1H), 6.60 (dd, 1H), 5.05 (q, 2H), 4.21 (q, 2H), 3.85 (s, 3H) 3.80 (t, 2H), 3.30 (s, 3H) 1.60 (quintet, 2H), 1.30 (m, 5H), 0.80 (t, 3H).

reactant | ethyl 5-bromo-1-n-butyl-1H-imidazole-4-carboxylate | 0.37 mmol, 0.10 g | BrC1=C(N=CN1CCCC)C(=O)OCC | C10H15BrN2O2
reactant | 2-methoxymethoxy-4-methoxyphenylboronic acid | 0.73 mmol, 0.16 g | COCOC1=C(C=CC(=C1)OC)B(O)O | C9H13BO5
reactant | sodium carbonate | 0.73 mmol, 0.08 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene ethanol water | 12 mL | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 5-(2-methoxymethoxy-4-methoxyphenyl)-1-n-butyl-1H-imidazole-4-carboxylate | 0.06 g, 46% | COCOC1=C(C=CC(=C1)OC)C1=C(N=CN1CCCC)C(=O)OCC | C19H26N2O5
